US05576340
2-{2-[4-(2-Hydroxyethyl)phenoxy]-1-methylethyl}amino-1(S)-phenylethanol (Compound No. 7-1)
A procedure similar to that described in Example 3 was repeated, except that 1.4 g of 2-amino-1(S)-phenylethanol (prepared as described in Preparation 16), 2.4 g of 2-[4-(2-oxopropoxy)phenyl]ethanol (prepared as described in Preparation 7), 100 ml of benzene, 100 ml of absolute methanol and 0.95 g of sodium cyanoborohydride were used and that, after the reaction, the reaction mixture was diluted with water and extracted with ethyl acetate. The extract was then concentrated by evaporation under reduced pressure, and the concentrate was purified by column chromatography through silica gel, using a 30:1 by volume mixture of ethyl acetate and ethanol as the eluent. 0.53 g of the title compound was obtained as crystals, melting at 93°-96° C. (after recrystallization from ethyl acetate).

reactant | 2-amino-1(S)-phenylethanol | 1.4 g | NC[C@@H](O)C1=CC=CC=C1 | C8H11NO
reactant | 2-[4-(2-oxopropoxy)phenyl]ethanol | 2.4 g | O=C(COC1=CC=C(C=C1)CCO)C | C11H14O3
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | sodium cyanoborohydride | 0.95 g | C(#N)[BH3-].[Na+]
solvent | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 2-{2-[4-(2-Hydroxyethyl)phenoxy]-1-methylethyl}amino-1(S)-phenylethanol | 0.53 g | OCCC1=CC=C(OCC(C)NC[C@@H](O)C2=CC=CC=C2)C=C1 | C19H25NO3
